US04657911
3-methylamino quinuclidine (IV)
A mixture of 33.3 g of 3-(N-methyl N-benzylamino)quinuclidine and 16 g of palladium on charcoal at 10% (50% humidity) in 500 ml of ethanol is heated in an autoclave at 80° C. for 6 hours 30 minutes and under a hydrogen pressure of 6 bars. Then it is filtered, the solvent is evaporated (under a good vacuum and when cold) and the residue is distilled (Boiling point [24 mm/Hg]=110° C.). Thus the expected product is obtained with a yield of 43%.

reactant | 3-(N-methyl N-benzylamino)quinuclidine | 33.3 g | CN(CC1=CC=CC=C1)C1CN2CCC1CC2 | C15H22N2
catalyst | palladium on charcoal | 16 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-methylamino quinuclidine | yield of 43% | CNC1CN2CCC1CC2 | C8H16N2
